data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9723,"CC1=C(O)C=C(C(C)C)C=C1.CCO.Cl[C-:1](Cl)[Cl:2].NC1=CC=CC(N)=N1.O.OC1=CC=CC(Cl)=C1Cl.[Na+].[OH2+][Na]|((1, 2), 2)"
train,pmechdb_split_0,0,8925,"CCNC(C)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3003,"CCCC1CC(O)(O)[O+:1]([H:2])C1.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2920,"C[N:1](C=O)[Cl:2].C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2076,"CC[O+:1](C(C)(O)OC(=O)CCC=O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3262,"C[Si-:1](C)(C)(O)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1241,"C=[C:1](C)[Mg:2][Br].C[C:3](C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8513,"CC1CC(=N[O+:1](C([O-])(OC(=O)C(F)(F)F)C(F)(F)F)[H:2])C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.CC1CC(=N[OH:3])C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8646,"C1=CC2=C(C=C1)C=C1C(=C2)C2=NC3=C(C=CC=C3)[NH:1][C:2]12[OH2+:3].CC(=O)[O-].CO.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4616,"C[S:1](N)=[O:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6671,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+]2=[C:1]([C:2](CCCOCC3=CC=CC=C3)(C(CC(=O)C3=CC=CC=C3)C3=CC=CC=C3)[O-:3])SC(CCO)=C2C)C=C1.CCO.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1100,"CC(=O)NC1=CC=C([N:1]=[N:2][OH2+:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8627,"CC(C)[O-].CCC1CCCC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9055,"CC(=O)[O:1][H:2].CCOC(=O)C1=C(COC)NC2([OH:3])C=CC(O)=CC12.CCOC(C)=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5477,"COC1=C2OC3C(=[N+:1](N)[H:2])CCC4(O)C5CC(=C2C34CCN5C2CCCCC2)C=C1.O.OCCOCCO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1598,"C[NH:1][C:2](O)(O)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3607,"C[Si-:1](C)(C)(F)[O:2]CC=CC[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,8721,"CCC(C)O[C:1](C)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,437,"NCC1=CC=CC=C1.O=C(O)C1=C(C(O)=[O+:1][H:2])C=CC=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6189,"CC1=CC=C(S(=O)(=O)[O:1][CH:2](C)[CH:3](C)[H:4])C=C1.[NH2-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1590,"CC(=O)[O-].CC1(C)C2=C(C=C(Br)C(N3CC[N:1]([C:2]4([OH2+:3])COC4)CC3)=C2)C(=O)C2=C1NC1=CC=CC=C12.CO.[BH3-]C#N|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9459,"C[C:1](Cl)=[O:2].[CH2:3]=[CH:4][O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3616,"C[Si](C)(C)[O:1]CCC[O+:2]=[CH:3]C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8827,"C1=CC=C([NH:1][C:2]2([OH2+:3])CCCCC2)C=C1.CC(=O)[O-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,213,"CC1CCC[CH:1]([H:2])[CH:3]1[Br:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5672,"C1CCC2=[NH+]CCCN2CC1.CC=C[CH:1]=[O:2].FC1=C(F)C(F)=C([N+]2=[C-:3]N3C(=N2)COC2CC4=C(C=CC=C4)C23)C(F)=C1F.F[B-](F)(F)F.O=C(C1=CC=CC=C1)C(=CC1=CC=C(Br)C=C1)C(=O)C1=CC=CC=C1.O=C(C1=CC=CC=C1)C(=CC1=CC=CC=C1)C(=O)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2374,"CC(C)CC1CC(C2CCCCC2)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C.CC(C)[O-]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,8423,"CCCC1CC(CCC)C(OC(C)=[O:1])[CH:2]([O:3]S(=O)(=O)C2=CC=C(C)C=C2)C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1959,"CC(C)[C+:1](C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,6263,"CO[C+:1]1C=C([N+](=O)[O-])[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,4445,"C#CC[O:1][H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3467,"COC=[NH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,924,"CCN(CC)C(C)(Cl)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4513,"C1CC[NH+:1]([H:2])CC1.CC(=O)[O-].CCOC(=O)C(=C(C)O)C(CC(C)CC)[N:3]1CCCCC1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3400,"CC[OH+:1][C:2](O)(CC(C)=O)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3714,"C=[O+][Si-:1](C)(C)(C)[CH2:2][C+:3]=C|((1, 2), 3)"
train,pmechdb_split_0,0,4700,"CC[CH+:1][CH:2](C=O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9710,"O=S(=O)(O)[C:1]1([H:2])C=CC=N[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1278,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=C([C:1](CCC(C2=CC=CC=C2)=[O:2])=[OH+:3])C=C1.CC1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4893,"C1=CC=[N+](C2=NC3=C(C=CC=C3)N2)C(CS[O-:1])=C1.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4106,"CC[C:1]([CH:2](C)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,2146,"C1=CC=C(CCC(C2=CC=CC=C2)=[O+:1][H:2])C=C1.CC(C)[CH2][Al]([OH])[CH2]C(C)C.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6266,"C[CH:1]=[CH:2][OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9421,"CC(C)(C)O.CC1(C)OCC([O-:1])C(C(O)C2[CH2:2][O:3]2)O1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5202,"C[CH:1]([NH:2]C)[Cl:3]|(2, 1);((1, 3), 3)"
